US08420642B2
3-Cyclopentylmethoxy-2-nitro-5-phenoxy-pyridine (1.2 mmol) is dissolved in acetic acid (4 ml). After addition of water (4 ml), zinc powder (6 eq.) is added and the reaction suspension is heated to 100° C. for 90 minutes. The reaction suspension is cooled to room temperature and filtrated. The filtrate is pored into 3.5% NaOH (30 ml) and extracted with dichloromethane. The combined organic layers are extracted with brine, dried over MgSO4 and the solvent is removed in vacuo. 3-Cyclopentylmethoxy-5-phenoxy-pyridine-2-ylamine is obtained as yellow powder in a yield of 80%. HPLC (method C): 1.83 min, LC-MS (method A): 1.486 min, 285.15 (MH+).

reactant | 3-Cyclopentylmethoxy-2-nitro-5-phenoxy-pyridine | 1.2 mmol | C1(CCCC1)COC=1C(=NC=C(C1)OC1=CC=CC=C1)[N+](=O)[O-] | C17H18N2O4
reactant | water | 4 ml | O | H2O
solvent | acetic acid | 4 ml | C(C)(=O)O | C2H4O2
catalyst | zinc | 6 eq. | [Zn] | Zn
product | 3-Cyclopentylmethoxy-5-phenoxy-pyridine-2-ylamine | yield of 80% | C1(CCCC1)COC=1C(=NC=C(C1)OC1=CC=CC=C1)N | C17H20N2O2
